US07186742B2
2-Chloro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester
A mixture of 2-chloro-5-iodo-benzoic acid methyl ester (3.0 g, 10.17 mmol), bis(pinacolato)diborane (4.12 g, 16.27 mmol), [1,1′-bis(diphenylphosphino)ferrocene] dichloropalladium(II) dichloromethane (0.37 g, 0.46 mmol) and potassium acetate (4.48 g, 45.77 mmol) in N,N-dimethylformamide (50 mL) was heated at 90° C. for 7 h, then at room teperature for a further 16 h. The mixture was diluted with 2:1 ethyl acetate-diethyl ether (250 mL) and filtered. The filtrate was washed with water and brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography eluting with diethyl ether to afford the title compound as a dark oil (2.5 g)

reactant | 2-chloro-5-iodo-benzoic acid methyl ester | 10.17 mmol, 3.0 g | COC(C1=C(C=CC(=C1)I)Cl)=O | C8H6ClIO2
reactant | bis(pinacolato)diborane | 16.27 mmol, 4.12 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 45.77 mmol, 4.48 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate diethyl ether | 250 mL | C(C)(=O)OCC.C(C)OCC
catalyst | [1,1′-bis(diphenylphosphino)ferrocene] dichloropalladium(II) dichloromethane | 0.46 mmol, 0.37 g | ClCCl.Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 2-Chloro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester | 2.5 g | COC(C1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)=O | C14H18BClO4
